US05260316
6-Hydroxy-1-oxo-1,2,3,4-tetrahydroisoquinoline is treated with bromacetaldehyde dimethyl acetal, in the presence of Cs2CO3 and CsI in DMF to yield 6-(2,2-dimethoxyethoxy)-1-oxo-1,2,3,4-tetrahydroisoquinoline. Treatment with 2-chloromethylpyridine hydrochloride in the presence of sodium hydride in DMF yields 6-(2,2-dimethoxyethoxy)2-(2-pyridylmethyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline. Hydrolysis with 20% aqueous sulfuric acid in THF yields α-[2-(2-pyridylmethyl)-1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yloxy]-acetaldehyde which is then converted to 2-(2-pyridylmethyl)-6-[2-(N-hydroxyamino)-ethoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline.

reactant | 6-Hydroxy-1-oxo-1,2,3,4-tetrahydroisoquinoline | OC=1C=C2CCNC(C2=CC1)=O | C9H9NO2
reactant | bromacetaldehyde dimethyl acetal | COC(CBr)OC | C4H9BrO2
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | CsI | [I-].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(2,2-dimethoxyethoxy)-1-oxo-1,2,3,4-tetrahydroisoquinoline | COC(COC=1C=C2CCNC(C2=CC1)=O)OC | C13H17NO4
